US07642270B2
8-Indan-5-yl-2-methanesulfonyl-5-oxo-5,8-dihydro-pyrido[2,3-d]pyrimidine-6-carboxylic acid ethyl ester (105 mg, 0.25 mmol) and 3-dimethylaminomethyl-phenylamine (38 mg, 0.25 mmol) were combined in iPrOH (2 mL) and heated to 90° C. After 3 h, the reaction mixture was concentrated and purified by preparative HPLC (30 mL/min 5-100% MeCN/H2O gradient over 10 min) and lyophilized to provide 56 mg of 2-(3-Dimethylaminomethyl-phenylamino)-8-indan-5-yl-5-oxo-5,8-dihydro-pyrido[2,3-d]pyrimidine-6-carboxylic acid ethyl ester. 1H NMR (400 MHz, CDCl3) δ (ppm): 9.31 (br s, 1H), 8.98 (br s, 1H), 8.51 (s, 1H), 8.39 (s, 1H), 7.00-7.53 (m, 7H), 4.28-4.40 (m, 2H), 3.64 (br s, 2H), 2.88-3.09 (m, 4H), 2.40 (s, 6H), 2.05-2.25 (m, 2H), 1.32-1.40 (m, 3H).

reactant | 8-Indan-5-yl-2-methanesulfonyl-5-oxo-5,8-dihydro-pyrido[2,3-d]pyrimidine-6-carboxylic acid ethyl ester | 0.25 mmol, 105 mg | C(C)OC(=O)C=1C(C2=C(N=C(N=C2)S(=O)(=O)C)N(C1)C=1C=C2CCCC2=CC1)=O | C20H19N3O5S
reactant | 3-dimethylaminomethyl-phenylamine | 0.25 mmol, 38 mg | CN(C)CC=1C=C(C=CC1)N | C9H14N2
solvent | iPrOH | 2 mL | CC(C)O | C3H8O
product | 2-(3-Dimethylaminomethyl-phenylamino)-8-indan-5-yl-5-oxo-5,8-dihydro-pyrido[2,3-d]pyrimidine-6-carboxylic acid ethyl ester | 56 mg | C(C)OC(=O)C=1C(C2=C(N=C(N=C2)NC2=CC(=CC=C2)CN(C)C)N(C1)C=1C=C2CCCC2=CC1)=O | C28H29N5O3
